US04588825
Step A: N-[(1,1-dimethylethoxy)carbonyl]-L-glutamic acid-5-methyl ester
L-glutamic acid-γ-methyl ester (32.2 g, 0.2 moles) was suspended in 250 ml of dioxane-water (1:1 by volume) and triethylamine (42.0 ml, 0.3 moles) was added in one portion. The resultant solution was cooled in an ice bath and di-t-butyldicarbonate (50.6 ml, 0.22 moles) added in portions at a rate to control frothing. The cooling bath was removed after the addition was completed and the reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated to one-half its original volume on a rotovap and then diluted with 100 ml of water and 250 ml of ethyl acetate. This mixture was poured into a separatory funnel, the layers separated and the aqueous phase washed once more with 250 ml of ethyl acetate. 350 ml of ethyl acetate was then added to the separatory funnel and the aqueous phase acidified by the addition 150 ml of 1 M hydrochloric acid in 25 ml portions, shaking after each addition. The acidified aqueous layer was extracted with 2×100 ml of ethyl acetate. The combined organic extracts were washed once with 0.5 M hydrochloric acid and once with brine, dried over magnesium sulfate, filtered and concentrated to an oil on a rotovap. Further concentration on a vacuum pump gave the desired compound as an oil (45.1 g, 86%). Trituration with ether-hexane gave a white solid, m.p. 74°-77° C. (uncorrected). NMR (CDCl3) δ 1.46 (s, 9H, --C(CH3)3), 1.84-2.60 (m, 4H, --CH2 --CH2), 3.67 (s, 1H, --OCH3), 4.08-4.50 (m, 1H, --CH--N), 5.10-5.47 (m, 1H, --NH), 11.00 (br s, 1H, --CO2H). Anal. Calcd. for C11H19NO6 : C, 50.57; H, 7.33; N, 5.36. Found: C, 50.40; H, 7.69; N, 5.08.

reactant | L-glutamic acid-γ-methyl ester | 0.2 moles, 32.2 g | COC(=O)CC[C@@H](C(=O)O)N | C6H11NO4
reactant | triethylamine | 0.3 moles, 42.0 ml | C(C)N(CC)CC | C6H15N
reactant | di-t-butyldicarbonate | 0.22 moles, 50.6 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 250 ml | O1CCOCC1.O
product | N-[(1,1-dimethylethoxy)carbonyl]-L-glutamic acid-5-methyl ester | 45.1 g, 86% | COC(CC[C@H](NC(=O)OC(C)(C)C)C(=O)O)=O | C11H19NO6
